US20010018438A1
To a cooled (0° C.) solution of 3,5-diphenyl-6-chloro-1H-pyrazin-2-one (1.2 g; prepared by the method of Cheeseman et al, J. Chem. Soc. Chem. Comm. 1971, (18), 2977-2979) in 4:1 ethylene glycol dimethylether:dimethylformamide (25 cm3)was added sodium hydride (0.28 g). The reaction was stirred for 5 minutes at 0° C. under nitrogen whereupon lithium bromide (1.17 g) was added. After a further 5 minutes stirring at room temperature, under nitrogen, methyl iodide (4.78 g) was added. The mixture was stirred at room temperature overnight under nitrogen. The reaction was diluted with water and extracted with ethyl acetate. The organic phase was separated, dried over sodium sulphate and evaporated in vacuo. The residue was subjected to chromatography on silica gel using ethyl acetate as eluant to afford 1-methyl-3,5-diphenyl-6-chloro-1H-pyrazin-2-one as a yellow solid (1.2 g; 60%). Found C, 68.98 ; H, 4.31; N, 8.98% C17H13N2OCl requires C, 68.81; H, 4.42; N, 9.44%.m/e (ES+) 297/299 (M+H)+.

reactant | 3,5-diphenyl-6-chloro-1H-pyrazin-2-one | C1(=CC=CC=C1)C=1C(NC(=C(N1)C1=CC=CC=C1)Cl)=O | C16H11ClN2O
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | lithium bromide | 1.17 g | [Br-].[Li+]
reactant | methyl iodide | 4.78 g | CI | CH3I
solvent | water | O | H2O
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
solvent | ethylene glycol dimethylether | COCCOC | C4H10O2
product | 1-methyl-3,5-diphenyl-6-chloro-1H-pyrazin-2-one | CN1C(C(=NC(=C1Cl)C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13ClN2O
